US09382288B2
16α-Azido-3-methoxy-estra-1,3,5(10)-triene-17-one
To a solution of 20 g 16α-azido-3-methoxy-estra-1,3,5(10)-triene-17β-ol in 11 acetone, 40 ml of 8 N chromium trioxide solution in conc. sulfuric acid is added dropwise at 0° C. and under stirring. After 2 h, 2 ml isopropanol are added and the reaction product is precipitated in crystalline form by dropwise addition of water. The product is filtered off, washed with water, dried and recrystallized from acetone/water. Yield: 16 g (81%), F=118-122° C.; [α]D+405°. IR: 1747 cm (CO), 2095 (N3).

reactant | 16α-azido-3-methoxy-estra-1,3,5(10)-triene-17β-ol | 20 g | N(=[N+]=[N-])[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)O | C19H25N3O2
reactant | acetone | CC(=O)C | C3H6O
reactant | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | chromium trioxide | 8 N, 40 ml | [O-2].[O-2].[O-2].[Cr+6]
product | 16α-Azido-3-methoxy-estra-1,3,5(10)-triene-17-one | N(=[N+]=[N-])[C@H]1C([C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)=O | C19H23N3O2
